US08252820B2
A. (E)-2,2-Dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pent-4-en-1-ol
To a solution of 2,2-dimethylpent-4-en-1-ol (4.9 g, 42.9 mmol) in DCM (500 mL) is added 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane (22 mL, 128 mmol) and Grubbs catalyst (3.53 g, 4.29 mmol), and the mixture is heated at 40° C. for 18 h. The mixture is concentrated and washed with sat. NaHCO3 and purified to give the title compound as a greenish crystalline.

reactant | 2,2-dimethylpent-4-en-1-ol | 42.9 mmol, 4.9 g | CC(CO)(CC=C)C | C7H14O
reactant | 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane | 128 mmol, 22 mL | CC1(OB(OC1(C)C)C=C)C | C8H15BO2
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
catalyst | Grubbs catalyst | 4.29 mmol, 3.53 g | Cl[Ru](Cl)([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)([P](C4CCCCC4)(C5CCCCC5)C6CCCCC6)=CC7=CC=CC=C7
product | (E)-2,2-Dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pent-4-en-1-ol | CC(CO)(C\C=C\B1OC(C(O1)(C)C)(C)C)C | C13H25BO3
